US06727256B1
(4-Benzyloxyphenyl)-(6-(5-(1,3-dioxolan-2-yl)furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine
Reaction of (4-benzyloxyphenyl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)amine (5.44 g, 15.0 mmol), 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)furan (10.4 g, 24.2 mmol) and bis(triphenylphosphine)palladium (II) chloride (catalytic amount) in dioxane (150 ml) according to Procedure B, followed by purification by silica gel chromatography (eluted with 50-100% EtOAc/i-hexane), allowed the isolation of the dioxolane product (3.45 g, 7.40 mmol, 49%); δH [2H6]DMSO 10.28 (1H,s), 9.13 (1H,s), 8.69 (1H,s), 8.61 (1H,s), 7.71 (2H,d), 7.31-7.52 (5H,m), 7.14 (1H,d), 7.09 (2H,d), 6.77 (1H,d), 6.03 (1H,s), 5.15 (2H,s), 3.95-4.19 (4H,m). This could then be converted to 5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde (identical to that described above) using Procedure C.

reactant | (4-benzyloxyphenyl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)amine | 15.0 mmol, 5.44 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)Cl | C20H15ClN4O
reactant | 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)furan | 24.2 mmol, 10.4 g | O1C(OCC1)C1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC
reactant | dioxolane | 7.40 mmol, 3.45 g | O1COCC1 | C3H6O2
reactant | 5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C2=CC=C(O2)C=O | C25H18N4O3
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium (II) chloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (4-Benzyloxyphenyl)-(6-(5-(1,3-dioxolan-2-yl)furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=CC2)C2OCCO2 | C27H22N4O4
